US07754759B2
To a solution of 4-(4-benzenesulfonyl-2-bromo-phenyl)-1-trimethylsilanyl-butan-2-ol (4.38 g) in DCM (80 mL) was added BF3.OEt2 (3.76 mL) at 0° C. under N2 atmosphere. The reaction was stirred at 0° C. for 1 h it was then quenched by addition of NaHCO3 (saturated solution). The mixture was extracted twice with DCM and the combined extracts were washed with water, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (hexane/EtOAc, 9/1) to afford 4-benzenesulfonyl-2-bromo-1-but-3-enyl-benzene (3.38 g, 93% yield).

reactant | 4-(4-benzenesulfonyl-2-bromo-phenyl)-1-trimethylsilanyl-butan-2-ol | 4.38 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)CCC(C[Si](C)(C)C)O)Br | C19H25BrO3SSi
reactant | BF3.OEt2 | 3.76 mL | B(F)(F)F.CCOCC
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-benzenesulfonyl-2-bromo-1-but-3-enyl-benzene | 3.38 g, 93% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)CCC=C)Br | C16H15BrO2S
